US04960797
To 7.65 g. (0.05 mole) of (±)-2-(4-fluoro-phenyl)-1-methyl-ethyl-amine (BE-PS 609 630) in 25 ml. of benzene 5.3 g. (0.05 mole) of distilled benzaldehyde are added and the solution is allowed to stand overnight and dried. To the dried solution 6.3 g. (0.05 mole) of dimethyl sulphate are added and the mixture is allowed to boil under reflux for 3 hours and after cooling under stirring a solution of 2 ml. conc. hydrochlorid acid in 50 ml. of water is added. After stirring for 1 hour the two layers are separated and the aqueous - acidic layer is alkalized with sodium hydroxide and extracted with benzene. The benzene solution is dried and evaporated and the residue is distilled in vacuo. The main cut (4.15 g., bp.: 87°-90° C./10 mmHg) is dissolved in 40 ml. of toluene and after adding 23.5 g. (0.17 mole) of potassium carbonate a solution of 3.65 g. (0.031 mole) propargyl bromide in 60% toluene is added dropwise to the mixture and it is stirred for 14 hours at room temperature. The mixture is then filtered and the filtrate acidified with 31% ethanol containing HCl until pH=3. The crystalline product is filtered and recrystallized from a mixture of ethanol and ether. 2.1 g. of (±)-N-methyl-N-propynyl-2-(4-fluoro-phenyl)-1-methyl-1-ethyl-amine hydrochloride are obtained, m.p.: 130°-132° C.

reactant | (±)-2-(4-fluoro-phenyl)-1-methyl-ethyl-amine | 0.05 mole | FC1=CC=C(C=C1)CC(C)N | C9H12FN
reactant | benzaldehyde | 0.05 mole | C(C1=CC=CC=C1)=O | C7H6O
reactant | dimethyl sulphate | 0.05 mole | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochlorid | Cl | ClH
reactant | potassium carbonate | 0.17 mole | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 0.031 mole | C(C#C)Br | C3H3Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | benzene | 5.3 g | C1=CC=CC=C1 | C6H6
product | (±)-N-methyl-N-propynyl-2-(4-fluoro-phenyl)-1-methyl-1-ethyl-amine hydrochloride | Cl.CN(C#CC)C(CC1=CC=C(C=C1)F)C | InChI=1S/C13H16FN.ClH/c1-4-9-15(3)11(2)10-12-5-7-13(14)8-6-12;/h5-8,11H,10H2,1-3H3;1H
